US09216965B2
To a suspension of 1-((6-(tert-butylsulfonyl)-4-chloroquinolin-7-yl)oxy)propan-2-one (100 mg, 0.281 mmol) in MeOH (2810 μl) was added NaBH4 (13.29 mg, 0.351 mmol) at rt. This was stirred at rt for 20 min. Removed solvent in vacuo. Redissolved in DCM and quenched with sat aq NH4Cl. Separated and extracted twice more with DCM. Washed combined organics with brine, then dried on MgSO4, filtered and concentrated providing 1-((6-(tert-butylsulfonyl)-4-chloroquinolin-7-yl)oxy)propan-2-ol (98.8 mg, 0.276 mmol, 98% yield) as an off-white foam. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.25 (d, J=6.06 Hz, 3H) 1.33 (s, 9H) 4.00-4.20 (m, 3H) 4.81 (d, J=4.29 Hz, 1H) 7.74 (s, 1H) 7.76 (d, J=4.80 Hz, 1H) 8.65 (s, 1H) 8.94 (d, J=4.80 Hz, 1H). MS: m/z: 358.1 [M+H]+.

reactant | 1-((6-(tert-butylsulfonyl)-4-chloroquinolin-7-yl)oxy)propan-2-one | 0.281 mmol, 100 mg | C(C)(C)(C)S(=O)(=O)C=1C=C2C(=CC=NC2=CC1OCC(C)=O)Cl | C16H18ClNO4S
reactant | NaBH4 | 0.351 mmol, 13.29 mg | [BH4-].[Na+]
solvent | MeOH | 2810 μl | CO | CH4O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 1-((6-(tert-butylsulfonyl)-4-chloroquinolin-7-yl)oxy)propan-2-ol | 0.276 mmol, 98.8 mg, 98% yield | C(C)(C)(C)S(=O)(=O)C=1C=C2C(=CC=NC2=CC1OCC(C)O)Cl | C16H20ClNO4S
